US07851634B2
40 6-Bromo-1-(3-methoxy-propyl)-3-methyl-1H-indazole
A mixture of 10.90 g methanesulfonic acid 2-acetyl-5-bromo-phenyl ester, 7.75 g of (3-methoxy-propyl)-hydrazine and 7.17 g of ammonium acetate in 100 ml of o-xylene is refluxed for 3 days with continuous separation of the water which is formed during the reaction. The reaction mixture is then cooled to room temperature and concentrated by evaporation. The title compound is obtained as an orange-yellow oil from the residue by means of flash chromatography (SiO2 60 F). Rf=0.38 (1:1 EtOAc-heptane). Rt=4.52 (gradient I).

reactant | methanesulfonic acid 2-acetyl-5-bromo-phenyl ester | 10.90 g | C(C)(=O)C1=C(C=C(C=C1)Br)OS(=O)(=O)C | C9H9BrO4S
reactant | (3-methoxy-propyl)-hydrazine | 7.75 g | COCCCNN | C4H12N2O
reactant | ammonium acetate | 7.17 g | C(C)(=O)[O-].[NH4+]
reactant | water | O | H2O
solvent | o-xylene | 100 ml | CC=1C=CC=CC1C | C8H10
product | 6-Bromo-1-(3-methoxy-propyl)-3-methyl-1H-indazole | BrC1=CC=C2C(=NN(C2=C1)CCCOC)C | C12H15BrN2O
